US04736051
20 g (0.13 moles) of monobutyl phosphate having a purity of 99% (AV1=360.6, AV2=721.3) was charged into a reactor, to which 129 ml of 1N sodium hydroxide aqueous solution was added and agitated at 70° C. to obtain uniform solution, at which the acid value of the reaction system was 46.7. While keeping the reaction system at 70° C., 59.2 g (0.64 moles) of epichlorohydrin was gradually dropped, followed by agitation at the temperature for 20 hours. The acid value of the reaction system was approximately zero, revealing that the conversion rate of the phosphoric monoester was almost 100%. The resulting product was collected by HPLC and the solvent was distilled off under reduced pressure to obtain 30.2 g (yield 86.5%) of sodium butyl 2-hydroxy-3-chloropropyl phosphate.

reactant | monobutyl phosphate | 0.13 moles, 20 g | P(=O)(OCCCC)([O-])[O-]
reactant | sodium hydroxide | 1N, 129 ml | [OH-].[Na+]
reactant | epichlorohydrin | 0.64 moles, 59.2 g | C(Cl)C1CO1 | C3H5ClO
product | sodium butyl 2-hydroxy-3-chloropropyl phosphate | 30.2 g, yield 86.5% | P(=O)(OCCCC)(OCC(CCl)O)[O-].[Na+] | InChI=1S/C7H16ClO5P.Na/c1-2-3-4-12-14(10,11)13-6-7(9)5-8;/h7,9H,2-6H2,1H3,(H,10,11);/q;+1/p-1
